US04675370
Preparation of N-4-benzocyclobutenyl 4-ethynylphthalimide
A mixture of N-4-benzocyclobutenyl 4-trimethylsilylethynyl phthalimide (3.95 g, 11.4 mmol) and potassium carbonate (0.50 g, 3.62 mmol) was stirred in 100 ml of anhydrous methol under N2 at room temperature for about 3 hours. The solvent was then removed, and the residue was treated with 75 ml of H2O and 50 ml CH2Cl2. The methylene chloride layer was separated and the aqueous layer was extracted with CH2Cl2 (2×50 ml). The combined extract was dried over MgSO4, and then filtered through a bed of silica gel (10 g). Slow evaporation of the filtrate led to the isolation of light yellow crystals. Yield: 2.85 g (91%) m.p.=191°-192° . Calc. for C18H11NO2 : 79.10% C; 4.06% H; 5.12% N, Found: 78.98% C; 4.01% H; 5.09% N. Mass Spectroscopy: 273 (M+ 100 %). Proton NMR (CDCl3): 3.25 (singlet, alicyclic protons); 3.37 (singlet,≡CH); 7.08-7.31, 7.94-8.08 (complex, aromatic protons). IR(KBr): 3272s (≡CH stretch); 2943m (alicyclic CH stretch); 1710 ms, 1773 vs (symmetric and asymmetric stretches of imide group).

reactant | N-4-benzocyclobutenyl 4-trimethylsilylethynyl phthalimide | 11.4 mmol, 3.95 g | C1=CC2=C1C=CC(=C2)N2C(C=1C(C2=O)=CC(=CC1)C#C[Si](C)(C)C)=O | C21H17NO2Si
reactant | potassium carbonate | 3.62 mmol, 0.50 g | C([O-])([O-])=O.[K+].[K+]
product | N-4-benzocyclobutenyl 4-ethynylphthalimide | C1=CC2=C1C=CC(=C2)N2C(C=1C(C2=O)=CC(=CC1)C#C)=O | C18H9NO2
